US05866611
A mixture of N-[3-(4-benzyloxyphenoxy)propyl]phthalimide (3.87 g) and hydrazine hydrate (0.55 g) in ethanol (40 ml) was heated at reflux for 3 hours. The reaction mixture was allowed to cool, filtered and the filtrate evaporated. Sodium hydroxide solution (2M, 20 ml) was added to the residue, the aqueous mixture extracted with ethyl acetate and the ethyl acetate extract dried. The solid collected by filtration of the cooled reaction mixture was suspended in sodium hydroxide solution (2M, 20 ml) and extracted with ethyl acetate. The ethyl acetate extract was dried, combined with the dried ethyl acetate derived from the filtrate and the combined extract evaporated to give 3-(4-benzyloxyphenoxy)propylamine as a solid (1.5 g), m.p. 115° C.

reactant | N-[3-(4-benzyloxyphenoxy)propyl]phthalimide | 3.87 g | C(C1=CC=CC=C1)OC1=CC=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C24H21NO4
reactant | hydrazine hydrate | 0.55 g | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(4-benzyloxyphenoxy)propylamine | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(OCCCN)C=C1 | C16H19NO2
